US08247415B2
Step B: [4-Methyl-6-oxopyridazin-1(6H)-yl]acetic acid
To ethyl [4-methyl-6-oxopyridazin-1(6H)-yl]acetate (0.575 g, 2.93 mmol) in tetrahydrofuran (3 mL), methanol (2 mL) and water (2 mL) was added 1 N lithium hydroxide solution (2.9 mL). The reaction mixture was stirred at ambient temperature for 1.5 h. After neutralized with trifluoro acetic acid, the reaction mixture was directly purified by reverse phase HPLC (TMC Pro-Pac C18; 0-45% 0.1% trifluoroacetic acid in acetonitrile/0.1% trifluoroacetic acid in water gradient). The pure fractions were lyophilized overnight to yield the title compound. LC/MS 169.2 (M+1).

reactant | ethyl [4-methyl-6-oxopyridazin-1(6H)-yl]acetate | 2.93 mmol, 0.575 g | CC=1C=NN(C(C1)=O)CC(=O)OCC | C9H12N2O3
reactant | lithium hydroxide | 1 N, 2.9 mL | [OH-].[Li+]
reactant | trifluoro acetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | [4-Methyl-6-oxopyridazin-1(6H)-yl]acetic acid | CC=1C=NN(C(C1)=O)CC(=O)O | C7H8N2O3
